US04771045
To a solution of 10 g of (3R,4R)-4-methylsulfonyl-3-tritylamino-2-azetidinone in 250 ml of methanol is added 100 ml of tetrahydrofuran, followed by addition of 3.45 g of methyl thioglycollate and 32.5 ml of 1N sodium hydroxide under ice-cooling, and the mixture is stirred at room temperature for 30 minutes. The solvent is then distilled off under reduced pressure and 100 ml of ethyl acetate is added. The ethyl acetate layer is separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography using n-hexane-ethyl acetate (3:2). The earlier eluate fractions are combined and concentrated under reduced pressure to give 4.35 g of (3R,4R)-4-[[(methoxycarbonyl)methyl]thio]-3-tritylamino-2-azetidinone.

reactant | (3R,4R)-4-methylsulfonyl-3-tritylamino-2-azetidinone | 10 g | CS(=O)(=O)[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H22N2O3S
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 32.5 ml | [OH-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | (3R,4R)-4-[[(methoxycarbonyl)methyl]thio]-3-tritylamino-2-azetidinone | 4.35 g | COC(=O)CS[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O3S
